US07790724B2
To a solution of tert-BuNH2 (15.6 mL, 148 mmol) in THF (50 mL) at 0° C., 2-(4-nitro-phenyl)-ethanesulfonyl chloride (WO 2006010079, 1.9 g, 7.6 mmol) was added portionwise. The resulting mixture was stirred for 24 h at RT. The solvent was removed in vacuo and the residue was taken up in DCM (50 mL) and cold 0.5 N HCl (50 mL). The organic layer was separated, dried (Na2SO4) and concentrated to obtain 2-(4-nitro-phenyl)-ethanesulfonic acid tert-butylamide (1.3 g, 62%) which was used directly without further purification.

reactant | tert-BuNH2 | 148 mmol, 15.6 mL | C(C)(C)(C)N | C4H11N
reactant | 2-(4-nitro-phenyl)-ethanesulfonyl chloride | 7.6 mmol, 1.9 g | [N+](=O)([O-])C1=CC=C(C=C1)CCS(=O)(=O)Cl | C8H8ClNO4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-nitro-phenyl)-ethanesulfonic acid tert-butylamide | 1.3 g, 62% | C(C)(C)(C)NS(=O)(=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C12H18N2O4S
